US07390923B2
b) 2-Methyloxirane-2-carboxylic acid (3-ethyl-4-nitrophenyl)amide
3-Chloroperoxybenzoic acid (14.71 g, 0.08524 mol) was added in portions to the refluxing solution of N-(3-ethyl-4-nitrophenyl)-2-methylacrylamide (6.68 g, 0.02852 mol) and 2,6-di-tert-butyl-4-methylphenol (149 mg) in dichloromethane (180 ml). After refluxing for 5 h the reaction mixture was allowed to cool to room temperature. The precipitated 3-chlorobenzoic acid was filtered, and the filtrate was extracted three times with 1M Na2CO3 and water. The organic phase was dried over Na2SO4, filtered and evaporated. The crude product was purified by flash chromatography using dichloromethane as an eluent. 1H NMR (400 MHz, DMSO-d6): 1.20 (3H, t, 3J=7.4 Hz), 1.55 (3H, s), 2.84 (2H, q, 3J=7.4 Hz), 2.99 (1H, d, 2Jgem=5.1 Hz), 3.06 (1H, d, 2Jgem=5.1 Hz), 7.81 (1H, dd, 3J=9.0 Hz, 4J=2.3 Hz), 7.85 (1H, d, 4J=2.2 Hz), 7.97 (1H, d, 3J=9.0 Hz), 9.88 (1H, s, —NHCO—).

reactant | 3-Chloroperoxybenzoic acid | 0.08524 mol, 14.71 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | N-(3-ethyl-4-nitrophenyl)-2-methylacrylamide | 0.02852 mol, 6.68 g | C(C)C=1C=C(C=CC1[N+](=O)[O-])NC(C(=C)C)=O | C12H14N2O3
reactant | 2,6-di-tert-butyl-4-methylphenol | 149 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | 2-Methyloxirane-2-carboxylic acid (3-ethyl-4-nitrophenyl)amide | C(C)C=1C=C(C=CC1[N+](=O)[O-])NC(=O)C1(OC1)C | C12H14N2O4
